US06759429B2
A suspension of 60% NaH (3.28 g) in THF (400 ml) was cooled to 0° C. under nitrogen atmosphere, and thereto was added pyrrol-2-carbaldehyde (7.81 g) in portions. To the mixture was added a solution of the above crude bromo compound in toluene, and the mixture was stirred at room temperature for 0.5 hour, and stirred at 40° C. for one hour, and further stirred at 50° C. for 2 hours. The mixture was cooled to room temperature, and poured into water, and extracted with ethyl acetate. The extract was washed with a saturated brine, dried over magnesium sulfate, and the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column (hexane/ethyl acetate=3/1→2/1→1/1) to give 1-(3-quinolylmethyl)-1H-pyrrol-2-carbaldehyde (10.5 g, 54%).

reactant | NaH | 3.28 g | [H-].[Na+]
reactant | pyrrol-2-carbaldehyde | 7.81 g | N1C(=CC=C1)C=O | C5H5NO
reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 1-(3-quinolylmethyl)-1H-pyrrol-2-carbaldehyde | 10.5 g, 54% | N1=CC(=CC2=CC=CC=C12)CN1C(=CC=C1)C=O | C15H12N2O
